US07576115B2
1) Synthesis of methyl 4-amino-2-nitrobenzoate
To a suspension of 4-amino-2-nitrobenzoic acid (200 mg, 1.10 mmol) synthesized in accordance with the synthesis method described in WO96/35666 and sodium carbonate (349 mg, 3.29 mmol) in dimethylformamide (5.5 mL), methyl iodide (0.21 ml) was added, and the mixture was stirred overnight at room temperature. Water was added to the reaction solution, and extraction was carried out with ethyl acetate, and the combined organic layer was washed with a saturated ammonium chloride aqueous solution and a saturated sodium chloride aqueous solution, followed by drying over anhydrous sodium sulfate. By concentrating the obtained organic layer, 216 mg of the desired product was obtained as a yellow solid (yield 100%).

reactant | 4-amino-2-nitrobenzoic acid | 1.10 mmol, 200 mg | NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | sodium carbonate | 3.29 mmol, 349 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5.5 mL | CN(C=O)C | C3H7NO
solvent | methyl iodide | 0.21 ml | CI | CH3I
product | methyl 4-amino-2-nitrobenzoate | 216 mg | NC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H8N2O4
